US04481142
9-Chloro-7-(2-chlorophenyl)-6,7-dihydro-6-(trifluoroacetyl)-5H-pyrimido[5,4-d][2]benzazepine
Dropwise 5.0 ml (35 mmol) of trifluoroacetic anhydride was added to a solution of 6.4 g (19 mmol) of 9-chloro-7-(2-chlorophenyl)-6,7-dihydro-5H-pyrimido[5,4-d][2]benzazepine and 10 ml (12.8 mmol) of pyridine in 75 ml of methylene chloride which was cooled to 0° C. After stirring for 1 hr, the mixture was poured into ice cold dilute hydrochloric acid. The methylene chloride solution was separated, washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and concentrated at reduced pressure. The residue was crystallized from ether to give the product as pink crystals, mp 178°-179° C. Recrystallization from ether gave the product as off-white crystals, mp 179°-180° C.

reactant | trifluoroacetic anhydride | 35 mmol, 5.0 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 9-chloro-7-(2-chlorophenyl)-6,7-dihydro-5H-pyrimido[5,4-d][2]benzazepine | 19 mmol, 6.4 g | ClC1=CC2=C(C3=C(CNC2C2=C(C=CC=C2)Cl)C=NC=N3)C=C1 | C18H13Cl2N3
reactant | pyridine | 12.8 mmol, 10 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 9-Chloro-7-(2-chlorophenyl)-6,7-dihydro-6-(trifluoroacetyl)-5H-pyrimido[5,4-d][2]benzazepine | ClC1=CC2=C(C3=C(CN(C2C2=C(C=CC=C2)Cl)C(C(F)(F)F)=O)C=NC=N3)C=C1 | C20H12Cl2F3N3O
